US07723368B2
Step 5: 1-(4-(Difluoromethoxy)phenyl)-2-(3-(4-methoxybut-1-ynyl)phenyl)ethane-1,2-dione
To a solution of 1-(4-(difluoromethoxy)phenyl)-2-(3-(4-hydroxybut-1-ynyl)phenyl)ethane-1,2-dione (344 mg, 1.0 mmol) from the previous step in DCM (5 mL) was added tetrabutylammonium bromide (64 mg, 0.2 mmol) followed by NaOH (2.5N, 5 mL). Ethyl iodide (3.9 g, 2.0 mL, 25 mmol) was added and the mixture was stirred vigorously for 2 d then worked up as follows. The reaction mixture was diluted with water and DCM. The aqueous layer was separated and extracted once with DCM. The combined organic layers were washed with water, dried over Na2SO4, filtered, and concentrated in vacuo to give an oil. Flash chromatography (SiO2, 1:9 EtOAc:Hexanes to 1:1 EtOAc:Hexanes) to provide 100 mg, 26%, of the title compound as a yellow oil.

reactant | 1-(4-(difluoromethoxy)phenyl)-2-(3-(4-hydroxybut-1-ynyl)phenyl)ethane-1,2-dione | 1.0 mmol, 344 mg | FC(OC1=CC=C(C=C1)C(C(=O)C1=CC(=CC=C1)C#CCCO)=O)F | C19H14F2O4
reactant | NaOH | 2.5N, 5 mL | [OH-].[Na+]
reactant | Ethyl iodide | 25 mmol, 2.0 mL, 3.9 g | C(C)I | C2H5I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 0.2 mmol, 64 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-(4-(Difluoromethoxy)phenyl)-2-(3-(4-methoxybut-1-ynyl)phenyl)ethane-1,2-dione | FC(OC1=CC=C(C=C1)C(C(=O)C1=CC(=CC=C1)C#CCCOC)=O)F | C20H16F2O4
